US05574055
(RS)-3-(4-Cyclohexyl-3-hydroxy-phenyl)-5-methoxymethyl-oxazolidin-2-one
200 mg (0.7 mmol) of (RS)-3-(3-amino-4-cyclohexyl-phenyl)-5-methoxymethyl-oxazolidin-2-one were suspended in a mixture of 0.86 ml of water, 0.72 g of ice and 0.235 ml of conc. sulfuric acid and treated at 0°-50 with a solution of 45 mg (0.66 mmol) of sodium nitrite in 0.4 ml of water. After boiling under reflux for 3 hours the mixture was extracted with dichloromethane, dried with sodium sulfate and the solvent was distilled off. Chromatography over silica gel with ethyl acetate/hexane 1:2 gave 120 mg (60%) of white crystals with m.p. 207°-208°.

reactant | (RS)-3-(3-amino-4-cyclohexyl-phenyl)-5-methoxymethyl-oxazolidin-2-one | 0.7 mmol, 200 mg | NC=1C=C(C=CC1C1CCCCC1)N1C(OC(C1)COC)=O | C17H24N2O3
reactant | sulfuric acid | 0.235 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.66 mmol, 45 mg | N(=O)[O-].[Na+]
solvent | water | 0.86 ml | O | H2O
solvent | water | 0.4 ml | O | H2O
product | (RS)-3-(4-Cyclohexyl-3-hydroxy-phenyl)-5-methoxymethyl-oxazolidin-2-one | 120 mg, 60% | C1(CCCCC1)C1=C(C=C(C=C1)N1C(OC(C1)COC)=O)O | C17H23NO4
